US07741315B2
Step 2: Methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate
A mixture of methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (0.70 g, 1.41 mmol) and a solution of trimethylsilyldiazomethane in hexane (1.0 mL, 2.0 mmol; 2M) in dichloromethane-methanol (4 & 2 mL) was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum. The residue was subject to column chromatography on silica gel euting with 2% methanol in dichloromethane. Collection and concentration of appropriate fractions provided the title compound. ES MS M+1=509

reactant | methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-hydroxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 1.41 mmol, 0.70 g | C(C)(C)(C)OC(CN1C(=C2CCN(C(C2=C(C1=O)O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC)=O | C23H24ClFN2O7
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 2.0 mmol, 2M, 1.0 mL | CCCCCC | C6H14
solvent | dichloromethane methanol | 2 mL | ClCCl.CO
product | Methyl 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | C(C)(C)(C)OC(CN1C(=C2CCN(C(C2=C(C1=O)OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OC)=O | C24H26ClFN2O7
